US06706723B2
Following the procedure outlined for the preparation of Example 1, N-[4-(5-hydroxy-pyridin-2-yloxy)-benzyl]-acetamide (0.25 g, 0.97 mmol) when treated with 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (0.20 g, 0.80 mmol), 1,5,7-trazabicyclo[4.4.0]dec-5-ene bound to polystyrene crosslinked with 2% DVB (PTBD, Fluka, 0.77 g) and 4 mL of acetonitrile, will afford N-(4-{5-[5-(2-Ethoxy-ethyl)-2,4,6-trioxo-hexahydro-pyrimidin-5-yloxy]-pyridin-2-yloxy}-benzyl)-acetamide. Expected MS (m/z, APCI): 455 [M−H]−.

reactant | N-[4-(5-hydroxy-pyridin-2-yloxy)-benzyl]-acetamide | 0.97 mmol, 0.25 g | OC=1C=CC(=NC1)OC1=CC=C(CNC(C)=O)C=C1 | C14H14N2O3
reactant | 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 0.80 mmol, 0.20 g | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
reactant | dec-5-ene | CCCCC=CCCCC | C10H20
reactant | PTBD | C1(C(OC(O1)(C(F)(F)F)C(F)(F)F)(F)F)(C2(C(OC(O2)(C(F)(F)F)C(F)(F)F)(F)F)F)F | C10F18O4
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-(4-{5-[5-(2-Ethoxy-ethyl)-2,4,6-trioxo-hexahydro-pyrimidin-5-yloxy]-pyridin-2-yloxy}-benzyl)-acetamide | C(C)OCCC1(C(NC(NC1=O)=O)=O)OC=1C=CC(=NC1)OC1=CC=C(CNC(C)=O)C=C1 | C22H24N4O7
